US05093026
A solution of 3.2 g of 1-(p-ethylphenyl)-2-[4'-(trans-4-n-pentylcyclohexyl)-2'-fluorobiphenyl-4-yl]ethene [obtained by Heck coupling of p-ethylstyrene with 4'-(trans-4-n-pentylcyclohexyl)-2'-fluoro-4-bromobiphenyl] in 100 ml of tetrahydrofuran is hydrogenated in the presence of Pd/C. Customary work-up gives 1-(p-ethylphenyl)-2-[4'-(trans-4-n-pentylcyclohexyl)-2'-fluorobiphenyl-4-yl)ethane.

reactant | 1-(p-ethylphenyl)-2-[4'-(trans-4-n-pentylcyclohexyl)-2'-fluorobiphenyl-4-yl]ethene | 3.2 g | C(C)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C33H39F
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 1-(p-ethylphenyl)-2-[4'-(trans-4-n-pentylcyclohexyl)-2'-fluorobiphenyl-4-yl)ethane | C(C)C1=CC=C(C=C1)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C33H41F
